US05399689
5 g of 1-chloro-4-[trans-4-(2-methoxyvinyl)cyclohexyl]-benzene in 60 ml of tetrahydrofuran and 20 ml of 9 percent hydrochloric acid are stirred at 60° C. for 2 hours. After cooling to room temperature the aqueous phase is extracted with 100 ml of ethyl acetate. The organic phase is washed with water, dried over sodium sulphate, filtered and evaporated. The residue gave 4.6 g of [trans-4-(4-chlorophenyl)cyclohexyl]acetaldehyde.

reactant | 1-chloro-4-[trans-4-(2-methoxyvinyl)cyclohexyl]-benzene | 5 g | ClC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)C=COC | C15H19ClO
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | hydrochloric acid | 20 ml | Cl | ClH
product | [trans-4-(4-chlorophenyl)cyclohexyl]acetaldehyde | 4.6 g | ClC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CC=O | C14H17ClO
